US04769451
Preparation of 2-chloroallyl bromoacetate
To a cold (0° C.) solution of bromoacetyl bromide (51.5 g, 25.5 mmol) in dichloromethane (80 mL) kept under nitrogen atmosphere was added 2-chloroallyl alcohol (26.0 g, 28.1 mmol) over 5 minutes period and N,N-dimethylaniline (30.9 g, 25.5 mmol) at such a rate that the temperature was kept below 5° C. (30 minutes). When the addition was completed, the cooling bath was removed and, the mixture was stirred for 2 hours at 23° C. and washed with water (25 mL), 0.1N HCl (2×25 mL) and water (25 mL). The organic solution was dried (Na2SO4) and concentrated to a crude material from which the title compound was distilled; 44.8 g, 82%, bp 74°-6° C./1.25 torr; ir (neat) νmax : 1745 (C=O), 1635 (C=C) cm-1 ; 1Hmr (CDCl3) δ: 3.93 (s, BrCH2), 4.73 (s, COOCH2C(Cl)=C2), 5.48 (m, COOCH2C(Cl)=CH2). Anal. calcd. for C5H6O2BrCl: C 28.13, H 2.83, Cl 16.61; found: C 28.49, H 2.92, Cl 16.78

reactant | bromoacetyl bromide | 25.5 mmol, 51.5 g | BrCC(=O)Br | C2H2Br2O
reactant | 2-chloroallyl alcohol | 28.1 mmol, 26.0 g | ClC(CO)=C | C3H5ClO
reactant | N,N-dimethylaniline | 25.5 mmol, 30.9 g | CN(C1=CC=CC=C1)C | C8H11N
solvent | dichloromethane | 80 mL | ClCCl | CH2Cl2
product | 2-chloroallyl bromoacetate | BrCC(=O)OCC(=C)Cl | C5H6BrClO2
